US04395406
4-Methylthio-5-bromo-6-methylpyrimid-2-one
4-Methylthio-6-methylpyrimid-2-one (see Wheeler, L. H. and MacFarland, F. D. J. Amer. Chem. Soc. 42 (1909) (43) (0.01 mol) was dissolved in acetic acid (30 ml) containing 2% acetic anhydride and N-bromo-succinimide (0.013 mol) added. The reaction mixture was kept at 55° C. for 40 min. Ice-cold water (150 ml) containing a little sodium bisulphite was added to the cold reaction mixture. The precipitate formed was recrystallised from water; yield 35%, m.p. 244° C. (Found: C, 30.34; H, 2.81. Calc. for C6H7BrN2OS: C, 30.65; H, 3.00).

reactant | 4-Methylthio-6-methylpyrimid-2-one | CSC1=NC(NC(=C1)C)=O | C6H8N2OS
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-bromo-succinimide | 0.013 mol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4-Methylthio-5-bromo-6-methylpyrimid-2-one | yield 35% | CSC1=NC(NC(=C1Br)C)=O | C6H7BrN2OS
